US07767690B2
c) [1-(5(S)-tert-Butoxycarbonylamino-3,3-dimethyl-hept-6-enoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester
4.60 g of methyltriphenylphosphonium bromide are added to a solution of 2.70 g of solid potassium bis(trimethylsilyl)amide in 60 ml of diethyl ether under argon at 0° and the mixture is stirred 30 minutes at 0° C. A solution of 1.98 g of [1-(5(S)-tert-butoxycarbonylamino-3,3-dimethyl-oxo-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester in 20 ml of diethyl ether is added dropwise at 0° C. The mixture is stirred at 0° C. for 1 hour, then poured into saturated aqueous ammonium chloride solution and extracted with tert-butyl methyl ether (2×). The combined organic layers are washed with water and brine, dried over sodium sulphate, filtered and concentrated. The title compound is obtained as a white solid from the residue by means of flash chromatography (SiO2 60 F). Rf=0.28 (1:1 EtoAc-heptane); Rt=4.79 (gradient I).

reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | [1-(5(S)-tert-butoxycarbonylamino-3,3-dimethyl-oxo-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester | 1.98 g | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H](C=O)NC(=O)OC(C)(C)C)(C)C)=O)=O | C24H35N3O6
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | methyltriphenylphosphonium bromide | 4.60 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | [1-(5(S)-tert-Butoxycarbonylamino-3,3-dimethyl-hept-6-enoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H](C=C)NC(=O)OC(C)(C)C)(C)C)=O)=O | C25H37N3O5
